US05254573
Step 1 Preparation of ethyl-3-amino-3-furanyl propanoate
Ethyl hydrogen malonate (13.7 g, 104 mmol) was added to 2-furanal (10 g, 104 mmol) and ammonium acetate (20 g, 260 mmmol) in dry ethanol. The solution was heated to reflux for 6 h. The solvent was removed in vacuo to leave an oil. To this oil, 10% HCl (250 mL) was added along with ether (100 mL). The layers were separated, extracted twice with methylene chloride, dried over Na2SO4, and the solvent removed in vacuo to give 6 g of the title compound.

reactant | Ethyl hydrogen malonate | 104 mmol, 13.7 g | C(CC(=O)O)(=O)OCC | C5H8O4
reactant | 2-furanal | 104 mmol, 10 g | O1C(=CC=C1)C=O | C5H4O2
reactant | ammonium acetate | 20 g | C(C)(=O)[O-].[NH4+]
reactant | HCl | 250 mL | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ether | 100 mL | CCOCC | C4H10O
product | ethyl-3-amino-3-furanyl propanoate | 6 g | C(CC)(=O)OC1(C(OC=C1)CC)N | C9H15NO3
